US05958983
Preparation of N,N"-(4-methyl-1,3-phenylene)bis[N'-(4-chlorophenyl)thiourea].
A solution of 4-chlorophenylisothiocyanate (1.39 g, 8.20 mmol) in dry dioxane (20 mL) is added dropwise, under nitrogen atmosphere, to a solution of 2,4-diaminotoluene (0.5 g, 4.10 mmol) in dry dioxane (20 mL). After 72 hours of stirring at room temperature the mixture is heated to 80° C. for 6 hours, and the solvent is eliminated under reduced pressure. The oily residue obtained is stirred with IsprOH (25 mL) for 4 hours. The white solid that precipitates is filtered and washed with n-hexane (3×25 mL) and ethyl ether (3×25 mL). The title compound is obtained as white powder. mp: 93-95° C.

reactant | 4-chlorophenylisothiocyanate | 8.20 mmol, 1.39 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | 2,4-diaminotoluene | 4.10 mmol, 0.5 g | NC1=C(C=CC(=C1)N)C | C7H10N2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N,N"-(4-methyl-1,3-phenylene)bis[N'-(4-chlorophenyl)thiourea] | CC1=C(C=C(C=C1)NC(=S)NC1=CC=C(C=C1)Cl)NC(=S)NC1=CC=C(C=C1)Cl | C21H18Cl2N4S2
